US07338973B2
8-methoxy-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene)
7-methoxy-thiochroman-4-one (700 mg, 4.27 mmol) was stirred with (4-methoxy-phenyl)-hydrazine (818 mg, 4.70 mmol, 1.1 eq.) in EtOH (40 mL, 0.1 M) and refluxed for 2 hours. EtOH was then removed from the mixture and EtOAc and saturated NaHCO3 aqueous solution were added. The organic layer was separated, dried over K2CO3 and concentrated. The residue was purified with flash column chromatography (4:1Hexane:EtOAc) to yield the title product as a brown solid.

reactant | 7-methoxy-thiochroman-4-one | 4.27 mmol, 700 mg | COC1=CC=C2C(CCSC2=C1)=O | C10H10O2S
reactant | (4-methoxy-phenyl)-hydrazine | 4.70 mmol, 818 mg, 1.1 eq. | COC1=CC=C(C=C1)NN | C7H10N2O
solvent | EtOH | 0.1 M, 40 mL | CCO | C2H6O
product | 8-methoxy-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene | COC=1C=C2C=3CSC4=C(C3NC2=CC1)C=CC=C4 | C16H13NOS
